US06060488
6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[2-Ethylpiperidin-3-oxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-[2-ethylpiperidin-3-oxy]benzoyl)benzo[b]thiophene (226 mg, 0.451 mmol), ethane thiol (2.25 mmol), and aluminum chloride (360 mg, 2.70 mmol) were converted to 192 mg (90%) of the title compound by the procedure of Example 16. MS(FD) 474(M+). IR (CHCl3) ν max 3380, 2970, 1597, 1467, 1255, 1165.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-[2-ethylpiperidin-3-oxy]benzoyl)benzo[b]thiophene | 0.451 mmol, 226 mg | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2C(NCCC2)CC)=O)C2=CC=C(C=C2)OC)C1 | C30H31NO4S
reactant | ethane thiol | 2.25 mmol | C(C)S | C2H6S
reactant | aluminum chloride | 2.70 mmol, 360 mg | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[2-Ethylpiperidin-3-oxy]benzoyl)benzo[b]thiophene | 192 mg, 90% | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2C(NCCC2)CC)=O)C2=CC=C(C=C2)O)C1 | C28H27NO4S
